US07279485B2
To a solution of 4-formyl-2-phenylimidazole (100 mg, 0.58 mmol) in CH2Cl2 (2 mL) was added aqueous KOH (2 mL of a 30% solution), followed by dimethyl sulfate (66 μL, 0.70 mmol), and tetrabutylammonium bromide (10 mg; 0.039 mmol). The reaction mixture was stirred overnight at RT and then was partitioned between ETOAc and water; the organic phase was washed with brine and then concentrated in vacuo. The residue was chromatographed (SiO2; continuous gradient from 1:1 hexane:EtOAc to 100% EtOAc) to give 1-methyl-2-phenyl-imidazole-5-carboxaldehyde as a solid (35 mg; 32%; 1st eluted fraction; Part A compound) and Part B compound

reactant | 4-formyl-2-phenylimidazole | 0.58 mmol, 100 mg | C(=O)C=1N=C(NC1)C1=CC=CC=C1 | C10H8N2O
reactant | KOH | [OH-].[K+]
reactant | dimethyl sulfate | 0.70 mmol, 66 μL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 0.039 mmol, 10 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-methyl-2-phenyl-imidazole-5-carboxaldehyde | CN1C(=NC=C1C=O)C1=CC=CC=C1 | C11H10N2O
